US04367238
A mixture of 2-(2-chlorophenylthio)phenol (33 g), allyl bromide (25 g) and dried potassium carbonate (29 g) in methyl isobutyl ketone (200 ml) was refluxed under heating for 1.5 hours. After cooling to the ambient temperature, the reaction mixture was filtered, and the filtrate was evaporated under reduced pressure. The resultant oily residue was stirred at 230° C. for 3 hours and then distilled under reduced pressure to give oily 2-(2-chlorophenylthio)-6-allylphenol (32.2 g) bp 157°-162° C./0.7 mmHg.

reactant | 2-(2-chlorophenylthio)phenol | 33 g | ClC1=C(C=CC=C1)SC1=C(C=CC=C1)O | C12H9ClOS
reactant | allyl bromide | 25 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl isobutyl ketone | 200 ml | C(C(C)C)C(=O)C | C6H12O
product | 2-(2-chlorophenylthio)-6-allylphenol | 32.2 g | ClC1=C(C=CC=C1)SC1=C(C(=CC=C1)CC=C)O | C15H13ClOS
